US07612202B2
A 500 ml reaction vessel equipped with a magnetic stirrer and a reflux condenser was charged with Temozolomide hydrochloride (7.2 gram, 0.031 mol), acetone (85 ml), acetic acid (1.8 ml) and water (90 ml). The reaction mixture was heated to reflux and stirring was maintained at this temperature for about 10 minutes. The reaction mixture was filtered at elevated temperature and then cooled to 5° C. for about half an hour to enable crystallization. The crystals thus obtained were collected and washed with water (2×20 ml) and cold acetone (20 ml). The crystals were dried at 40° C. in vacuum to obtain 5.3 grams (0.027 mol) of free Temozolomide base (88% yield).

reactant | Temozolomide hydrochloride | 0.031 mol, 7.2 gram | CN1C(=O)N2C=NC(=C2N=N1)C(=O)N.Cl
reactant | acetone | 85 ml | CC(=O)C | C3H6O
reactant | acetic acid | 1.8 ml | C(C)(=O)O | C2H4O2
solvent | water | 90 ml | O | H2O
product | Temozolomide | 0.027 mol, 5.3 grams, 88% yield | CN1C(=O)N2C=NC(=C2N=N1)C(=O)N | C6H6N6O2
